US07960567B2
2-(2,3-Dimethyl-4-(2-methyl-4-nitro-1H-indol-5-yloxy)phenyl)acetic acid (12.5).
Under an N2 atmosphere, 2-(4-(4-amino-2-nitrophenoxy)-2,3-dimethylphenyl)acetic acid (0.723 g, 2.29 mmol) was dissolved in DMSO (18 mL) and acetone (0.503 mL, 6.86 mmol) was added. The reaction was treated with potassium tert-butoxide (0.770 g, 6.86 mmol) and allowed to stir at room temperature for 1.5 h. The reaction was diluted with water and citric acid was added to pH 4. The mixture was extracted with ethyl acetate. The aqueous layer was washed with additional ethyl acetate. The organics were combined, dried (Na2SO4), filtered and concentrated in vacuo. Flash column chromatography of the residue, eluting with 0% to 9% methanol in dichloromethane, afforded the title compound. LC-MS ESI (neg.) m/z: 353.2 (M−H).

reactant | 2-(4-(4-amino-2-nitrophenoxy)-2,3-dimethylphenyl)acetic acid | 2.29 mmol, 0.723 g | NC1=CC(=C(OC2=C(C(=C(C=C2)CC(=O)O)C)C)C=C1)[N+](=O)[O-] | C16H16N2O5
reactant | acetone | 6.86 mmol, 0.503 mL | CC(=O)C | C3H6O
reactant | potassium tert-butoxide | 6.86 mmol, 0.770 g | CC(C)([O-])C.[K+]
solvent | DMSO | 18 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2-(2,3-Dimethyl-4-(2-methyl-4-nitro-1H-indol-5-yloxy)phenyl)acetic acid | CC1=C(C=CC(=C1C)OC=1C(=C2C=C(NC2=CC1)C)[N+](=O)[O-])CC(=O)O | C19H18N2O5
